US04605664
Diethyl malonate (18.3 g., 0.114 mole) is added with stirring under nitrogen at 10°-15° C. to a suspension of sodium hydride (56% in mineral oil, 4.89 g., 0.114 mole) in dry dimethylformamide (85 ml.). The reaction mixture is stirred for 1 hour at room temperature, cooled to 5° C. and then 6,7-dichloro-2-cyclopentylmethyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl trifluoromethanesulfonate (18.8 g., 0.0426 mole dissolved in dry toluene (20 ml.) is added over 1 hour at 5°-7° C. After stirring at room temperature for 18 hours, the reaction mixture is poured into ice water (1000 ml.) and extracted with ether (4×150 ml.) and then with methylene chloride (2×50 ml.). The combined organic extracts are washed three times with water and concentrated under vacuum. The residual oil is dissolved in ethanol (150 ml.) and added to a solution of 20 g. of sodium hydroxide in water (150 ml.). The mixture is refluxed for 3 hours, cooled and the ethanol removed under vacuum. The residue is diluted with water, extracted with hexane and then acidified with hydrochloric acid. The gum that separates is extracted with ether. The combined etheral extracts are washed with water and then extracted repeatedly with dilute sodium bicarbonate. The combined agueous extracts are acidified with hydrochloric acid and extracted with ether. The ether extracts are washed with brine, dried over magnesium sulfate an concentrated under vacuum to obtain the crude (6,7-dichloro-2-cyclopentylmethyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetic acid, 9.3 g., m.p. 145.5°-148° C., in 62% yield. Recrystallization from butyl chloride affords material which melts at 149°-151° C.

reactant | Diethyl malonate | 0.114 mole, 18.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.114 mole, 4.89 g | [H-].[Na+]
reactant | 6,7-dichloro-2-cyclopentylmethyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(C)CC1CCCC1)(F)F | C17H17Cl2F3O4S
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (6,7-dichloro-2-cyclopentylmethyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetic acid | 62% yield | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)CC1CCCC1)CC(=O)O | C18H20Cl2O3
